US03971828
28.3g (0.113 mol) of 2-bromo-p-chlorophenylacetic acid was mixed with 26.9g (0.226 mol) of thionylchloride and the mixture was refluxed for 2.5 hours. After the excess thionylchloride had been distilled off, the reaction mixture was distilled under reduced pressure to give 26.7g of 2-bromo-p-chlorophenylacetyl chloride as yellow-orange oil. (b.p. 148° - 152°C/15 mmHg)

reactant | 2-bromo-p-chlorophenylacetic acid | 0.113 mol, 28.3g | BrC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6BrClO2
reactant | thionylchloride | 0.226 mol, 26.9g | S(=O)(Cl)Cl | Cl2OS
product | 2-bromo-p-chlorophenylacetyl chloride | 26.7g | BrC1=C(C=CC(=C1)Cl)CC(=O)Cl | C8H5BrCl2O
